US06271241B1
A solution of 5.4 mmole 2-(chloromethyl)-1-[(2-methylphenyl)methyl]benzimidazole in 20 mL of dry Acetonitrile is treated with 10 mL of isoamylamine for 16 hr at room temperature. The solvent is removed in vacuo and the residue is partitioned between 30 mL of ethyl acetate and 10 mL of 1 N NaOH. The ethyl acetate layer is dried over anhydrous Na2SO4 and solvent removed in vacuo to afford 1.6 g 92% ({1-[(2-methylphenyl)methyl]benzimidazol-2-yl}methyl) (3-methylbutyl)amine. 2,4-dimethoxybenzoylchloride 1.5 eq is treated with 1.0 eq of ({1-[(2-methylphenyl)methyl]benzimidazol-2-yl}methyl) (3-methylbutyl)amine in dichloromethane at room temperature for 1 hr. The reaction is quenched with 1 N NaOH and partitioned between dichloromethane and water. The organic layer is dried with Na2SO4 and the solvent removed in vacuo. The residue is chromatographed (SiO2) with ethyl acetate to afford 95% of (2,4-dimethoxyphenyl)-N-({1-[(2-methylphenyl)methyl]benzimidazol-2-yl}methyl)-N-(3-methylbutyl)carboxamide (Compound 1). Mass Spec M+ 486.

reactant | 2-(chloromethyl)-1-[(2-methylphenyl)methyl]benzimidazole | 5.4 mmole | ClCC1=NC2=C(N1CC1=C(C=CC=C1)C)C=CC=C2 | C16H15ClN2
reactant | isoamylamine | 10 mL | C(CC(C)C)N | C5H13N
solvent | Acetonitrile | 20 mL | C(C)#N | C2H3N
product | ({1-[(2-methylphenyl)methyl]benzimidazol-2-yl}methyl) (3-methylbutyl)amine | 1.6 g, 92% | CC1=C(C=CC=C1)CN1C(=NC2=C1C=CC=C2)CNCCC(C)C | C21H27N3
